US05053509
3-Chloropropionyl chloride (139.16 g) is added with stirring in the course of 1 hour and a half to a solution, heated to a temperature in the region of 55° C., of 3,4-difluoroaniline (125 g) in pyridine (80 cc) and acetone (1.5 liters), and the mixture is maintained at this temperature for 1 hour and a half. After cooling to approximately 20° C., the solution is poured with stirring into a mixture of water (1 liter) and crushed ice (500 g). The temperature is allowed to rise to approximately 20° C. and the product is extracted with dichloromethane (3×500 cc). The combined organic extracts are washed with N hydrochloric acid (500 cc) and water (5×500 cc), dried over magnesium sulphate, filtered and concentrated under reduced pressure (20 kPa) at approximately 50° C. The solid obtained is taken up in n-hexane (500 cc), drained and washed with the same solvent (2×100 cc). 3',4'-Difluoro-3-chloropropionanilide (202.9 g) is obtained in the form of a beige solid, m.p. 76° C., which is used without further purification for the subsequent steps.

reactant | 3-Chloropropionyl chloride | 139.16 g | ClCCC(=O)Cl | C3H4Cl2O
reactant | 3,4-difluoroaniline | 125 g | FC=1C=C(N)C=CC1F | C6H5F2N
reactant | water | 1 liter | O | H2O
solvent | pyridine | 80 cc | N1=CC=CC=C1 | C5H5N
solvent | acetone | 1.5 liters | CC(=O)C | C3H6O
solvent | n-hexane | 500 cc | CCCCCC | C6H14
product | 3',4'-Difluoro-3-chloropropionanilide | 202.9 g | FC=1C=C(NC(CCCl)=O)C=CC1F | C9H8ClF2NO
